data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2451,2719,[CH3:17][NH:18][C:19](=[O:20])[C:21]([CH3:22])=[N+:23]([CH3:24])[C-:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]#[C:9][C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]#[N:7])[C:8]2=[C:9]([C:10]([CH3:11])([CH3:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([CH3:22])[N:23]([CH3:24])[C:25]2([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,31.209306740904164,-29.64511466723698
4688,5344,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:11]#[N:10])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:13]=[C:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,13.621584959114056,-27.14339079612957
3208,3622,[CH3:10][c-:11]1[o+:12][n:13][o:14][c:15]1=[O:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]2[O:12][C:11]1([CH3:10])[C:15](=[O:16])[O:14]2,water,298.15,21.345717063414256,-14.189348097913523
3377,3836,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[O:7]=[c:8]1[n-:9][o+:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[o:18]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:9]2[C:8](=[O:7])[O:18][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[O:10]2,water,298.15,36.60757601913639,8.068919512773219
3453,3932,[CH3:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[N-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]([C:17]#[N:18])[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,27.97983042363777,-4.241515196215058
1905,2111,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:22]([CH3:23])([C:24]([CH3:25])=[O:26])[N:20]([CH3:21])[C:13]3([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,23.81217886598023,-39.721655417235006
1936,2146,[CH3:13][O:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([Cl:11])[Cl:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([Cl:11])([Cl:12])[C:20]([CH3:21])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[N:18]([CH3:19])[CH:17]1[C:15]([O:14][CH3:13])=[O:16],water,298.15,28.2643861503119,-16.069775332084728
4699,5356,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[C:13]([C:14]([CH3:15])=[O:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]([CH3:15])=[O:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:23]([CH3:24])=[O:25],water,298.15,27.93967503403368,-3.3748848247212395
4562,5207,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[NH+:13][C-:14]([C:15](=[O:16])[NH:17][CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:14]([C:15](=[O:16])[NH:17][CH3:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:13][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,22.520935363859333,-9.65175103253892
1308,1434,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([NH+:17]=[C:18]([CH3:19])[C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([CH3:19])([C:20]([CH3:21])=[O:22])[NH:17][C:16]2([C:14]([NH:13][CH3:12])=[O:15])[C:23]([CH3:24])=[O:25],water,298.15,20.137040551496025,-17.440318002363092
1320,1449,[CH3:13][CH:14]=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:14]([CH3:13])[NH:15][C:16]3([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,15.895057888923429,-26.8103305897987
1565,1731,[CH3:9][NH:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24](=[O:25])[O:26][CH3:27].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:20]([CH3:21])[C:22]2([CH3:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,28.12870761625404,-35.21473142637322
